US07902369B2
1) Manufacture of 2-ethyl-6-iodo-imidazo[1,2-a]pyrimidine
755 mg of 1-bromo-2-butanone was dissolved in 15 ml of ethanol, 1.0 g of 2-amino-5-iodopyrimidine was added and the mixture was stirred all night by heating under reflux. After cooling down to room temperature, the solvents were distilled outunder reflux, ethyl acetate followed by saturated sodium bicarbonate aqueous solution were added. Organic layer was dried with anhydrous sodium sulfate, and the solvents were distilled outunder reduced pressure. The obtained residues were purified by silicagel column chromatography (ethyl acetate) to obtain 110 mg of the above compound as a white solid.

reactant | 1-bromo-2-butanone | 755 mg | BrCC(CC)=O | C4H7BrO
reactant | 2-amino-5-iodopyrimidine | 1.0 g | NC1=NC=C(C=N1)I | C4H4IN3
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-ethyl-6-iodo-imidazo[1,2-a]pyrimidine | 110 mg | C(C)C=1N=C2N(C=C(C=N2)I)C1 | C8H8IN3
